US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-methylpentanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-(2-methylpentanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (560 mg) was dissolved in methanol (26 ml), aqueous lithium hydroxide monohydrate (192 mg) solution (13 ml) and tetrahydrofuran (13 ml) were added, and the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure, 1N hydrochloric acid was added, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and diisopropyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 319 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-(2-methylpentanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 560 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(CCC)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C35H40N4O6
reactant | lithium hydroxide monohydrate | 192 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | methanol | 26 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-methylpentanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 319 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(CCC)C)=O)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C33H36N4O6
